US07465795B2
4-amino-8-(3-methoxyphenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 3-methoxyphenyl boronic acid (147 mg, 0.97 mmol) were reacted to afford the title compound (69 mg, 64.2% yield) as an off-white crystal. 1H NMR (300 MHz, CDCl3) δ 8.58 (br, 1H), 7.87 (dd, J=8.3 Hz, J′=1.4 Hz, 1H), 7.81 (dd, J=7.1 Hz, J′=1.4 Hz, 1H), 7.72 (t, J=8.1 Hz, 1H), 7.41 (t, J=8.0 Hz, 1H), 7.15-7.35 (m, overlapped with CHCl3), 6.98 (dd, J=8.1 Hz, J′=1.8 Hz, 1H), 3.86 (s, 3H), 3.46 (q, J=6.7 Hz, 2H), 1.67 (m, J=7.3 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H) MS APCI, m/z=337 (M+H) HPLC 1.89 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3-methoxyphenyl boronic acid | 0.97 mmol, 147 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 4-amino-8-(3-methoxyphenyl)-N-propyl-cinnoline-3-carboxamide | 69 mg, 64.2% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC=C1)OC)C(=O)NCCC | C19H20N4O2
